Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
s/p ileostomy take down 
 
Major Surgical or Invasive Procedure:
Ileostomy take down 

 
History of Present Illness:
___ woman underwent low anterior resection
with diverting loop ileostomy for rectal cancer pouch study was
normal presented for ileostomy takedown
Risks and benefits including but not limited to infection
bleeding leak hernia injury to surrounding organs needs more
procedures were discussed patient understood and agree

 
Past Medical History:
PMH:
Rectal cancer 
Anxiety
Osteoarthritis
___ cirrhosis
Hypothyroidism

PSH:
Appendectomy
Liver bx
 
Social History:
___
Family History:
FAMILY HISTORY:
1.  Mother died of old age at ___.
2.  Father had COPD.
3.  No family history of malignancy.
 
Physical Exam:
P/E:
VS: ___ 0406 Temp: 98.4 PO BP: 122/79 HR: 80 RR: 18 O2 sat:
94% O2 delivery: RA 
___ 0005 Temp: 98.8 PO BP: 129/71 Lying HR: 68 RR: 18 O2
sat: 94% O2 delivery: RA 
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia
PELVIS:
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: prior ostomy site c/d/I without surrounding 
edema/erythema

 
Brief Hospital Course:
___ rectal CA s/p lap LAR/diverting loop ileostomy now s/p 
ileostomy take-down. On ___ and ___ patient had several 
episodes of dark blood PR. As a result, SQH was held. On ___, 
the wick was replaced, the patient was advanced to clears. She 
tolerated that well, and she was heplocked. She had 3 additional 
small BMs. On ___, she was passing gas, and was advanced to low 
residue diet. On ___, the wick was taken out. She had good 
pain control, no nausea or vomiting and the wound was not 
concerning for any drainage or signs of infection. She was 
eating a regular diet, was passing gas and BMs, and was ready 
for discharge. 
 
Medications on Admission:
Medications - Prescription
ENOXAPARIN - enoxaparin 40 mg/0.4 mL subcutaneous syringe. 0.4 
ml
sc once a day
LEVOTHYROXINE - levothyroxine 100 mcg tablet. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
LORAZEPAM - lorazepam 0.5 mg tablet. 1 tablet(s) by mouth three
times a day as needed for anxiety
 
Medications - OTC
LOPERAMIDE [ANTI-DIARRHEA] - Anti-Diarrhea 2 mg tablet. 1
tablet(s) by mouth three times a day

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cholestyramine 4 gm PO DAILY 
RX *cholestyramine (with sugar) 4 gram 4 grams by mouth DAILY 
Refills:*0 
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  LORazepam 0.5 mg PO Q8H:PRN anxiety   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
rectal CA s/p lap LAP diverting loop ileostomy s/p takedown 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
ILEOSTOMY TAKEDOWN
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure well and you are now 
ready to return home. 
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence, this should improve. If you do not see improvement 
and you are having symptoms of dehydration (headache, 
lightheadedness, dizziness, dark urine, or dry mouth) please 
call the office or go to the emergency room.   
You have a small wound where the old ileostomy once was. This 
should be covered with a dry gauze dressing.  Please monitor the 
incision for signs and symptoms of infection including: 
increasing redness and pain at the incision site, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. If you develop these symptoms please call the office or 
go to the emergency room.
You may shower, let the warm water run over the wound line and 
pat the area dry with a towel, do not rub. Please apply a new 
gauze dressing after showering.
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs, 
and go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.  
It is expected that you will have pain after surgery, this will 
gradually improve over the first week or so you are home.  You 
should continue to take 2 Extra Strength Tylenol (___) for 
pain every 8 hours around the clock. Please do not take more 
than 3000mg of Tylenol in 24 hours or any other medications that 
contain Tylenol such as cold medication. Do not drink alcohol 
while taking Tylenol.  You may also take Advil (Ibuprofen) 600mg 
every 8 hours for 7 days, please take Advil with food. If these 
medications are not controlling your pain to a point where you 
can ambulate and perform minor tasks, you should take a dose of 
the narcotic pain medication. Please do not take sedating 
medications or drink alcohol while taking the narcotic pain 
medication.  Do not drive while taking narcotic medications. 
While taking narcotic pain medications you are at risk for 
constipation, please take an over the counter stool softener 
such as Colace. 
Thank you for allowing us to participate in your care, we wish 
you all the best! 
 
Followup Instructions:
___